datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([c:18]1[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]([H:37])[c:23]1[H:38])[H:33])[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:30])([H:31])[H:32])([C:17]([c:18]1[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]([H:37])[c:23]1[H:38])[H:33])[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:8])([H:6])[H:7],79.6634
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:27])[H:15])([H:13])[H:14],16.0247
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]1[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]1([H:11])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:15])[H:16])([H:8])([H:9])[H:10],148.532
[C:0]([O:1][H:4])([H:2])[H:3].[C:5](=[O:6])[H:7]>>[C:0](=[O:1])([H:2])[H:3].[H:4][C:5](=[O:6])[H:7],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]1([C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])[H:21])[H:13])([H:11])[H:12],53.2623
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])([H:6])[H:7],52.9694
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[S:13]([C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])[H:22])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([S:13][H:21])([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])[H:22],10.0416
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[S:10]=[C:11]([C:12]([S:13][H:16])[H:15])[H:14]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:12]([C:11](=[S:10])[H:14])([S:13][H:16])[H:15],117.905
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:9])[H:8])([H:6])[H:7],32.0494
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[O:15][O:16][H:17]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:17])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[O:15][O:16],-13.7026
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:10])[H:16])([H:7])([H:8])[H:9].[C:4](=[C:5]([C:6]([H:18])([H:19])[H:20])[H:17])([H:14])[H:15],224.898368
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[H:12]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:12])[H:8])([H:6])[H:7],12.7612
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][S:11][H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10](=[C:9]([H:12])[H:13])[S:11][H:14],17.9912
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5]([O:6])([H:7])([H:8])[H:9]>>[C:0]([O:1][O:6][C:5]([H:7])([H:8])[H:9])([H:2])([H:3])[H:4],0.0
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0]([C:1]([O:2][O:3][H:7])[H:8])([H:4])([H:5])[H:6],166.272
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:9])([H:10])[H:11].[O:7][O:8][H:12],125.9384
